US05929094
Step A: 2-Bromo-4-trifluoromethyl-6-nitro-phenol
4.0 g of bromine in 7.3 mL of AcOH was added dropwise to a solution of 4.0 g of 2-nitro-4-trifluoromethyl-phenol and 300 mg FeCl3 in 23.1 mL of AcOH at 0° C. Reaction was then heated at 40° C. for 1.5 h. and then allowed to stir for 65 h at rt. Solvent was then removed, placed solid back into EtOAc, filtered through celite and concentrated in vacuo. 5 g of title compound was collected.

reactant | bromine | 4.0 g | BrBr | Br2
reactant | 2-nitro-4-trifluoromethyl-phenol | 4.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)O | C7H4F3NO3
solvent | AcOH | 7.3 mL | CC(=O)O | C2H4O2
solvent | AcOH | 23.1 mL | CC(=O)O | C2H4O2
product | 2-Bromo-4-trifluoromethyl-6-nitro-phenol | BrC1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])O | C7H3BrF3NO3
